Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
erythromycin base / indomethacin / sulfamethoxazole / 
trimethoprim
 
Attending: ___.
 
Chief Complaint:
Right and left leg pain, right sided numbness and weakness 
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
The patient is a ___ yo F with a history of vertebral dissection 
in ___ after coughing, lumbar disc herniation with sciatica, 
bilateral knee arthritis, HTN and hypothyroidism who presents 
with acute onset of pain in her R hip with weakness. 

Patient states that she was in her usual state of health when 
yesterday at 4PM she felt a sharp pain in her R inguinal region 
with a feeling of weakness in the right leg. She thinks it has 
spread to the left inguinal region sometime this morning. The 
pain is intermittent and a very sharp, excruciating pain when it 
does come on, lasting a few seconds and then resolving. It seems 
to be exaberated by walking. She feels subjectively weak in the 
R leg but is able to ambulate. Though if  the pain comes on, it 
feels as if she might fall over. She had swelling of her 
bilateral legs yesterday evening that resolved overnight. She 
has a dull pain in her R shoulder that is always present. At 
this time yesterday evening, she also noted the R side of her 
body, including her face arm/leg were somewhat numb. 

She has a headache currently but states it is because she is 
hungry, no frequent headaches. She received a flu vaccine on 
___ and felt slightly unwell after, but no fevers or weight 
loss. She took her first dose of lisinopril for HTN yesterday. 
She did have a vertebral dissection in ___ s/p warfarin thought 
to be ___ excessive coughing. She was just seen by her PCP for 
an annual physical, TSH 2.62 with normal Chem and WBC  12.3 on 
___. She sat on an uncomfortable chair and experienced an 
aching pain afterward for 2 days, though that was  earlier this 
week and resolved. 

On neurologic review of systems, the patient denies 
lightheadedness or confusion. Denies difficulty with producing 
or comprehending speech. Denies loss of vision, blurred vision, 
diplopia, vertigo, tinnitus, hearing difficulty, dysarthria, or 
dysphagia. Denies bowel or bladder incontinence or retention.   

On general review of systems, the patient denies fevers, rigors, 
night sweats, or noticeable weight loss. Denies chest pain, 
palpitations, dyspnea, or cough. Denies nausea, vomiting, 
diarrhea, constipation, or abdominal pain. No recent change in 
bowel or bladder habits. 

 
Past Medical History:
Bilateral R>L knee arthritis s/p ortho procedures on both knees
Right shoulder dislocation surgery
Lumbar disc herniation with sciatica
Hypothyroidism
HTN
Migranes with photophobia 

 
Social History:
___
Family History:
Mother, MGM, brother with hypothyroidism. Father with lung ca 
___ asbestos. Niece with ovarian ___. Mother with ___ 
disease. Father with HTN. No history of seizure, autoimmune 
disease, or muscle disease. Many family members who have had 
bone issues/knee replacements. 

 
Physical Exam:
97.7 66 147/84 14 100% RA  
General: NAD  
HEENT: NCAT, no oropharyngeal lesions, neck supple  
___: No cyanosis 
Pulmonary: Breathing comfortably on RA
Extremities: Warm, no edema. High arched feet   

Neurologic Examination:  
MS: Awake, alert, oriented. Able to relate history without 
difficulty. Speech is fluent with full sentences, and intact 
verbal comprehension. No paraphasias. No dysarthria. Normal 
prosody. No evidence of hemineglect. No left-right confusion. 
Able to follow both midline and appendicular commands. 
 
Cranial Nerves - PERRL 4->2 brisk. VF full to number counting. 
EOMI, no nystagmus. No facial movement asymmetry. Hearing intact 
to finger rub bilaterally. Palate elevation symmetric. 
SCM/Trapezius strength ___ bilaterally. Tongue midline. 
Decreased sensation to LT on R face in V1-3 distribution 

Motor - Normal bulk and tone. No drift. No tremor or asterixis. 
   [Delt] [Bic] [Tri] [ECR] [IP] [Quad] [Ham] [TA] [Gas]
    [C5]  [C5]  [C7]  [C6]  [L2]  [L3]  [L5]  [L4] [S1]
 L   5     5     5     5     5    5     5     5     5    
 R   5     5     5     5     5-    5-     5-     5     5    
Sensory - Decreased sensation in R face, arm, leg and torso to 
light touch and pinprick. Normal temperature, proprioception and 
vibration.  

DTRs:  
[Bic] [Tri] [___] [Quad] 
     L  2+    2+     2+      2+       
     R  2+    2+     2+      2+         
Plantar response flexor bilaterally.  

Coordination - No dysmetria with finger to nose testing 
bilaterally or heel to shin bilaterally  

Gait - Normal initiation. Narrow base. Stable without sway. 
Negative Romberg.

 
Pertinent Results:
___ 03:30PM   RHEU FACT-<10 CRP-6.5*
___ 03:30PM   cTropnT-<0.01
___ 03:30PM   ALT(SGPT)-17 AST(SGOT)-17 CK(CPK)-128 ALK 
PHOS-60 TOT BILI-0.4
___ 03:30PM   GLUCOSE-89 UREA N-10 CREAT-0.6 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-102 TOTAL CO2-21* ANION GAP-20
___ 03:48PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 03:44PM   LACTATE-1.7
___ 03:30PM   NEUTS-71.4* ___ MONOS-5.8 EOS-2.8 
BASOS-0.4 IM ___ AbsNeut-8.03* AbsLymp-2.16 AbsMono-0.65 
AbsEos-0.32 AbsBaso-0.05
___ 03:30PM   ALBUMIN-4.5 CALCIUM-10.2 PHOSPHATE-3.5 
MAGNESIUM-2.0
___ 03:30PM   PLT COUNT-269
___ 03:30PM   WBC-11.3* RBC-4.45 HGB-13.5 HCT-40.3 MCV-91 
MCH-30.3 MCHC-33.5 RDW-12.6 RDWSD-41.1

__________________________
Imaging: 
-MRI w/o contrast head: 
1. No acute intracranial abnormality including hemorrhage, 
infarct, or 
suggestion of mass. 
2. Few, nonspecific foci of subcortical white matter signal 
abnormality, most likely reflecting chronic small vessel 
ischemic disease. 

-CTA neck and head
CTA head: There appears to be early branching of the right M1 
segment of the MCA ; these branches are patent. Otherwise, 
patent circle ___ vasculature without evidence of stenosis, 
occlusion, or aneurysm greater than 3 mm.  Patent major dural 
venous sinuses. 
  
CTA neck: 
Patent bilateral vertebral and carotid arteries. Noncalcified 
atherosclerotic plaque at least moderately narrows the lumen of 
the right 
proximal ICA (series 2I, image 143). There is no left ICA 
stenosis by NASCET criteria. 

Hip Xray: HIP UNILAT MIN 2 VIEWS 
No acute fracture or dislocation is seen. There are mild 
degenerative changes at the hip joints.  Irregularity at the 
lateral left iliac wing appears chronic and may be prior bone 
donor/graft site. 

 
Brief Hospital Course:
The patient is a ___ yo F with a history of vertebral dissection 
in ___ after coughing, lumbar disc herniation with sciatica, 
bilateral knee arthritis, right shoulder dislocation surgery, 
HTN and hypothyroidism who presents with acute onset of pain in 
her right and left hip with right sided weakness and numbness. 
Right sided weakness and numbness symptoms were concerning for 
the possibility of a stroke. Given patient's history of 
arthritis, hip xray was done to assess for fractures which was 
negative. Given patient's risk for hypertensive stroke and 
previous history of vertebral dissection, CTA imaging was done 
showing patent head and neck arteries with no signs of 
significant stenosis or dissection. MRI imaging was done showing 
no evidence of acute infarction. Patient also noted that her 
left and right leg had been swollen since starting lisinopril, 
which she began the same day of right and left leg pain onset. 
Given the timing, there were concerns that her leg swelling and 
pain may have been a side effect of the lisinopril and thus this 
medication was discontinued during her stay. Patient was deemed 
stable and will be follow up with her PCP for hypertension 
management. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 100 mcg PO DAILY 
2. Levothyroxine Sodium 112 mcg PO DAILY 
3. Lisinopril 5 mg PO DAILY 
4. Norethindrone-Estradiol 1 TAB PO DAILY 
5. Calcium Carbonate 1200 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Magnesium Oxide 250 mg PO ONCE 
8. Loratadine 10 mg PO DAILY 
9. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Idiopathic left and right leg pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

You were hospitalized at ___ concerning your right and left 
leg pain and right sided numbness and weakness. We were 
concerned that these might be signs of a stroke but your CT and 
MRI scan shows that this is unlikely. You were deemed stable and 
ready for discharge. Please follow up with your PCP regarding 
whether the recent leg swelling you experienced could be a side 
effect of lisnopril, which started the day you began having 
right and left leg pain. 

 
Followup Instructions:
___